* NGSPICE file created from /home/wbraun/projects/sky130-analog/designs/ringosc/layout/ringosc_flat.ext - technology: sky130A

.subckt pex 
+ vdd gnd
X0 sky130_fd_sc_hd__inv_1_0[4]/A sky130_fd_sc_hd__inv_1_0[3]/A vdd vdd sky130_fd_pr__pfet_01v8_hvt ad=2.6e+11p pd=2.52e+06u as=1.82e+12p ps=1.764e+07u w=1e+06u l=150000u
X1 sky130_fd_sc_hd__inv_1_0[2]/A sky130_fd_sc_hd__inv_1_0[1]/A gnd gnd sky130_fd_pr__nfet_01v8 ad=1.69e+11p pd=1.82e+06u as=1.183e+12p ps=1.274e+07u w=650000u l=150000u
X2 sky130_fd_sc_hd__inv_1_0[5]/A sky130_fd_sc_hd__inv_1_0[4]/A gnd gnd sky130_fd_pr__nfet_01v8 ad=1.69e+11p pd=1.82e+06u as=0p ps=0u w=650000u l=150000u
X3 sky130_fd_sc_hd__inv_1_0[3]/A sky130_fd_sc_hd__inv_1_0[2]/A gnd gnd sky130_fd_pr__nfet_01v8 ad=1.69e+11p pd=1.82e+06u as=0p ps=0u w=650000u l=150000u
X4 sky130_fd_sc_hd__inv_1_0[1]/A out vdd vdd sky130_fd_pr__pfet_01v8_hvt ad=2.6e+11p pd=2.52e+06u as=0p ps=0u w=1e+06u l=150000u
X5 sky130_fd_sc_hd__inv_1_0[1]/A out gnd gnd sky130_fd_pr__nfet_01v8 ad=1.69e+11p pd=1.82e+06u as=0p ps=0u w=650000u l=150000u
X6 sky130_fd_sc_hd__inv_1_0[3]/A sky130_fd_sc_hd__inv_1_0[2]/A vdd vdd sky130_fd_pr__pfet_01v8_hvt ad=2.6e+11p pd=2.52e+06u as=0p ps=0u w=1e+06u l=150000u
X7 sky130_fd_sc_hd__inv_1_0[6]/A sky130_fd_sc_hd__inv_1_0[5]/A vdd vdd sky130_fd_pr__pfet_01v8_hvt ad=2.6e+11p pd=2.52e+06u as=0p ps=0u w=1e+06u l=150000u
X8 sky130_fd_sc_hd__inv_1_0[5]/A sky130_fd_sc_hd__inv_1_0[4]/A vdd vdd sky130_fd_pr__pfet_01v8_hvt ad=2.6e+11p pd=2.52e+06u as=0p ps=0u w=1e+06u l=150000u
X9 sky130_fd_sc_hd__inv_1_0[6]/A sky130_fd_sc_hd__inv_1_0[5]/A gnd gnd sky130_fd_pr__nfet_01v8 ad=1.69e+11p pd=1.82e+06u as=0p ps=0u w=650000u l=150000u
X10 out sky130_fd_sc_hd__inv_1_0[6]/A vdd vdd sky130_fd_pr__pfet_01v8_hvt ad=2.6e+11p pd=2.52e+06u as=0p ps=0u w=1e+06u l=150000u
X11 sky130_fd_sc_hd__inv_1_0[2]/A sky130_fd_sc_hd__inv_1_0[1]/A vdd vdd sky130_fd_pr__pfet_01v8_hvt ad=2.6e+11p pd=2.52e+06u as=0p ps=0u w=1e+06u l=150000u
X12 sky130_fd_sc_hd__inv_1_0[4]/A sky130_fd_sc_hd__inv_1_0[3]/A gnd gnd sky130_fd_pr__nfet_01v8 ad=1.69e+11p pd=1.82e+06u as=0p ps=0u w=650000u l=150000u
X13 out sky130_fd_sc_hd__inv_1_0[6]/A gnd gnd sky130_fd_pr__nfet_01v8 ad=1.69e+11p pd=1.82e+06u as=0p ps=0u w=650000u l=150000u
C0 vdd sky130_fd_sc_hd__inv_1_0[2]/A 0.41fF
C1 sky130_fd_sc_hd__inv_1_0[2]/A sky130_fd_sc_hd__inv_1_0[4]/A 0.01fF
C2 sky130_fd_sc_hd__inv_1_0[5]/A sky130_fd_sc_hd__inv_1_0[3]/A 0.01fF
C3 sky130_fd_sc_hd__inv_1_0[1]/A out 0.35fF
C4 sky130_fd_sc_hd__inv_1_0[5]/A sky130_fd_sc_hd__inv_1_0[6]/A 0.22fF
C5 sky130_fd_sc_hd__inv_1_0[5]/A vdd 0.41fF
C6 sky130_fd_sc_hd__inv_1_0[5]/A sky130_fd_sc_hd__inv_1_0[4]/A 0.22fF
C7 sky130_fd_sc_hd__inv_1_0[1]/A sky130_fd_sc_hd__inv_1_0[2]/A 0.22fF
C8 out sky130_fd_sc_hd__inv_1_0[2]/A 0.20fF
C9 vdd sky130_fd_sc_hd__inv_1_0[3]/A 0.41fF
C10 sky130_fd_sc_hd__inv_1_0[4]/A sky130_fd_sc_hd__inv_1_0[3]/A 0.22fF
C11 vdd sky130_fd_sc_hd__inv_1_0[6]/A 0.43fF
C12 sky130_fd_sc_hd__inv_1_0[6]/A sky130_fd_sc_hd__inv_1_0[4]/A 0.01fF
C13 sky130_fd_sc_hd__inv_1_0[5]/A out 0.20fF
C14 vdd sky130_fd_sc_hd__inv_1_0[4]/A 0.41fF
C15 sky130_fd_sc_hd__inv_1_0[1]/A sky130_fd_sc_hd__inv_1_0[3]/A 0.01fF
C16 out sky130_fd_sc_hd__inv_1_0[3]/A 0.19fF
C17 sky130_fd_sc_hd__inv_1_0[2]/A sky130_fd_sc_hd__inv_1_0[3]/A 0.22fF
C18 out sky130_fd_sc_hd__inv_1_0[6]/A 0.40fF
C19 vdd out 0.85fF
C20 sky130_fd_sc_hd__inv_1_0[1]/A vdd 0.43fF
C21 out sky130_fd_sc_hd__inv_1_0[4]/A 0.19fF
C22 sky130_fd_sc_hd__inv_1_0[6]/A gnd 0.40fF
C23 sky130_fd_sc_hd__inv_1_0[5]/A gnd 0.04fF
C24 sky130_fd_sc_hd__inv_1_0[4]/A gnd 0.40fF
C25 sky130_fd_sc_hd__inv_1_0[3]/A gnd 0.40fF
C26 sky130_fd_sc_hd__inv_1_0[2]/A gnd 0.40fF
C27 sky130_fd_sc_hd__inv_1_0[1]/A gnd 0.40fF
C28 out gnd 0.50fF
C29 vdd gnd 4.74fF
.ends

